US04889857
A solution of 8.3 g of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 7.1 g of 2 -(methylaminomethyl)morpholine dihydrochloride and 15.2 g of 1,8-diazabicyclo[5.4.0]undec-7-ene in 166 ml of acetonitrile is refluxed for 8 hours. After ice-cooling, the precipitated crystals are collected by filtration, washed with acetone and recrystallized from dimethylformamide to give 1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-[2-(methylaminomethyl)-morpholino]-4-oxoquinoline-3-carboxylic acid, melting at 257°-259° C. with decomposition. The corresponding hydrochloride melts at 288°-290° C. with decomposition.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 8.3 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 2 -(methylaminomethyl)morpholine dihydrochloride | 7.1 g | Cl.Cl.CNCC1CNCCO1
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 15.2 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 166 ml | C(C)#N | C2H3N
product | 1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-[2-(methylaminomethyl)-morpholino]-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(OCC1)CNC)F)=O)C(=O)O | C19H21F2N3O4
